US04866064
Twenty point two (20.2) g of the thus obtained 2-amino-5-(4-chlorobenzylthio)-1,3,4-thiadiazole and 12.2 g of ethyl acetoacetate were mixed with 24 g of polyphosphoric acid and the mixture was stirred at 130°~150° C. for 45 minutes. After cooling, water was added to the mixture, the mixture was extracted with chloroform, and the organic layer was washed with a sodium hydrogen carbonate aqueous solution and water respectively. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was recrystallized from ethanol and thus 21.3 g of 2-(4-chlorobenzylthio)-7-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-amino-5-(4-chlorobenzylthio)-1,3,4-thiadiazole | NC=1SC(=NN1)SCC1=CC=C(C=C1)Cl | C9H8ClN3S2
reactant | ethyl acetoacetate | 12.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | water | O | H2O
product | 2-(4-chlorobenzylthio)-7-methyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 21.3 g, Yield 84% | ClC1=CC=C(CSC2=NN3C(=NC(=CC3=O)C)S2)C=C1 | C13H10ClN3OS2
